US07342118B2
4-[2-Methyl-2-(4-nitro-imidazol-1-yl)-propyl]-morpholine
2-Methyl-2-(4-nitro-imidazol-1-yl)-propionaldehyde was reacted with morpholine to provide the title compound: MS m/z 255.1 (M+1).

reactant | 2-Methyl-2-(4-nitro-imidazol-1-yl)-propionaldehyde | CC(C=O)(C)N1C=NC(=C1)[N+](=O)[O-] | C7H9N3O3
reactant | morpholine | N1CCOCC1 | C4H9NO
product | 4-[2-Methyl-2-(4-nitro-imidazol-1-yl)-propyl]-morpholine | CC(CN1CCOCC1)(C)N1C=NC(=C1)[N+](=O)[O-] | C11H18N4O3
